US06482478B1
117 g of potassium carbonate and 55.6 g of bromohexane are added to a solution of 53.6 g of 3-bromo-2-fluorophenol in 650 ml of acetone, and the mixture is refluxed for 8 hours. The mixture is filtered, evaporated to ⅓ of the original volume and poured into 600 ml of water. The pH is adjusted to 1 using hydrochloric acid, and the mixture is extracted three times with 150 ml of tert-butyl methyl ether each time. The combined organic phases are concentrated under reduced pressure, and the residue is subjected to vacuum distillation (103° C.; 1 mbar), giving 67 g of 6-bromo-2-hexyloxyfluorobenzene as a colorless oil. 1H-NMR (CDCl3): 6.9-7.1 (m; 3H); 4.0 (t; 2H), 0.9-1.8 (m, 11H), 19F-NMR (CDCl3): −128 ppm. A solution of 67.3 g of 6-bromo-2-hexyloxyfluorobenzene, 24.7 g of 2-methyl-3-butyn-2-ol [115-19-5], 0.7 g of bis(triphenylphosphine)palladium(II) chloride and 0.7 g of copper iodide in 340 ml of triethylamine is refluxed for 5 hours. The mixture is then poured into 1.5 of ice-water, the pH is adjusted to 1 using hydrochloric acid, and the mixture is extracted three-times with 200 ml of tert-butyl methyl ether each time. The combined organic phases are dried under reduced pressure. The crude 4-(2-fluoro-3-hexyloxyphenyl)2methyl-3-butyn-1-ol is refluxed for 3 hours in 1000 ml of toluene together with three mole-equivalents of sodium hydroxide. The mixture is filtered and washed with dilute hydrochloric acid, the solvent is removed by distillation, and the residue is distilled (90° C.; 0.5 mbar), giving 34 g of 1-(2-fluoro-3-hexyloxyphenyl)ethyne.

reactant | 6-bromo-2-hexyloxyfluorobenzene | 67.3 g | BrC1=CC=CC(=C1F)OCCCCCC | C12H16BrFO
reactant | 2-methyl-3-butyn-2-ol | 24.7 g | CC(C)(C#C)O | C5H8O
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 340 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.7 g | [Cu](I)I
product | 1-(2-fluoro-3-hexyloxyphenyl)ethyne | 34 g | FC1=C(C=CC=C1OCCCCCC)C#C | C14H17FO
